US04927838
A solution of borane in tetrahydrofuran (1M; 10 mL) was added to a solution of crude 7-methoxy-1-(3-methoxyphenyl)-2-naphthalenecarboxylic acid (2 g) in tetrahydrofuran (10 mL) at 0°-5° C. and the mixture was stirred at room temperature for 3 hours. After the solvent was evaporated off, the reaction was diluted with 1N sodium hydroxide and extracted with dichloromethane. The organic layer was washed with brine then was dried (MgSO4) and evaporated to give 1.75 g of crude 7-methoxy-1-(3-methoxyphenyl)-2-naphthalenemethanol.

reactant | borane | B | BH3
reactant | 7-methoxy-1-(3-methoxyphenyl)-2-naphthalenecarboxylic acid | 2 g | COC1=CC=C2C=CC(=C(C2=C1)C1=CC(=CC=C1)OC)C(=O)O | C19H16O4
solvent | tetrahydrofuran | 1M, 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-methoxy-1-(3-methoxyphenyl)-2-naphthalenemethanol | 1.75 g | COC1=CC=C2C=CC(=C(C2=C1)C1=CC(=CC=C1)OC)CO | C19H18O3
